US04683276
C. Preparation of 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl)-1-methylethyl)phenyl cyanate
A 21.70 gram portion of 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl)-methylethyl)phenol (0.1037 mole), 11.53 grams of cyanogen bromide (0.1089 mole) and 250 milliliters of acetone were added to a reactor and maintained under a nitrogen atmosphere with stirring. The stirred solution was cooled to -5° C. then 10.55 grams of triethylamine (0.1043 mole) was added to the reactor over a eight minute (480 s) period and so as to maintain the reaction temperature at -5° to -3° C. After completion of the triethylamine addition, the reactor was maintained at -5° to -3° C. for an additional 37 minutes (2220 s), followed by addition of the reactor contents to 1500 milliliters of deionized water. After 5 minutes (300 s), the water and product mixture was multiply extracted with three 100 milliliter volumes of methylene chloride. The combined methylene chloride extract was washed with 500 milliliters of 0.05 percent aqueous hydrochloric acid followed by washing with 500 milliliters of deionized water then drying over anhydrous sodium sulfate. The dry methylene chloride extract was filtered and solvent removed by rotary evaporation under vacuum for 30 minutes (1800 s) at 90° C. 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl)-1-methylethyl)phenyl cyanate (22.2 grams) was recovered in 91.4 percent yield as a light amber colored oil. Infrared spectrophotometric analysis of a film sample of the product confirmed the product structure (disappearance of phenolic hydroxyl absorbance, appearance of cyanate absorbance at 2242 and 2271 cm-1, maintenance of maleimide carbonyl absorbance at 1722 m-1).

reactant | 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl)-methylethyl)phenol | 0.1037 mole | O=C1N(C(C=C1)=O)C1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C | C19H17NO3
reactant | cyanogen bromide | 0.1089 mole, 11.53 grams | N#CBr | CBrN
reactant | acetone | 250 milliliters | CC(=O)C | C3H6O
reactant | triethylamine | 0.1043 mole, 10.55 grams | C(C)N(CC)CC | C6H15N
solvent | water | 1500 milliliters | O | H2O
product | 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl)-1-methylethyl)phenyl cyanate | 91.4 percent yield | O=C1N(C(C=C1)=O)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC#N | C20H16N2O3
